US06194487B1
Next, the terephthaloyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 3 minutes. Consequently, terephthaloyl chloride condensed on the surface of the base particles. A polymerization reaction, using as a catalyst triethylamine, took place between terephthaloyl chloride condensed on the surface of the base particles and 1,4-butanedithiol contained therein, forming a film of 1,4-butanedithiol-terephthaloyl chloride co-polymer on the surface of the base particles.

reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 1,4-butanedithiol | C(CCCS)S | C4H10S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,4-butanedithiol terephthaloyl chloride | C(CCCS)S.C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | InChI=1S/C8H4Cl2O2.C4H10S2/c9-7(11)5-1-2-6(4-3-5)8(10)12;5-3-1-2-4-6/h1-4H;5-6H,1-4H2
